*$
* INA327
*****************************************************************************
* (C) Copyright 2022 Texas Instruments Incorporated. All rights reserved.     
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.      
** TI and its licensors and suppliers make no warranties, either expressed   
** or implied, with respect to this model, including the warranties of       
** merchantability or fitness for a particular purpose. The model is        
** provided solely on an "as is" basis. The entire risk as to its quality   
** and performance is with the customer
*****************************************************************************
*
** Released by: Online Design Tools, Texas Instruments Inc.
* Part: INA327
* Date: 19DEC2022
* Model Type: All IN ONE
* EVM Order Number: N/A 
* EVM Users Guide:  N/A 
* Datasheet: SBOS222D - NOVEMBER 2001 - REVISED NOVEMBER 2004
*
* Model Version: Final 1.1
*
*****************************************************************************
*
* Final 1.1
* 1. Updated PSpice symbol
* 2. Updated with Unique Subckt name.
*
* Final 1.0
* Release to Web.
*
*****************************************************************************
* Model Usage Notes:
* 1. The following features are modeled:
*    GAIN AND PHASE
*    SLEW RATE
*    OUTPUT SWING
*    OUTPUT CURRENT THRU THE SUPPLY RAILS
*    OUTPUT CURRENT LIMIT
*    OUTPUT IMPEDANCE
*    CMRR W FREQUENCY EFFECTS
*    PSRR W FREQUENCY EFFECTS
*    INPUT CAPACITANCE
*    INPUT VOLTAGE NOISE THAT VARIES W GAIN AND R1 AND R2 VALUES
*    INPUT CURRENT NOISE
*    INPUT COMMON MODE VOLTAGE RANGE
*    PROPER SWING LIMITS ON THE R2 NODE
*    INTERNALY GENERATED RIPPLE THAT VARIES W GAIN AND R1 AND R2 VALUES
*    IQ INCL CHANGE W VCC AND TEMPERATURE
*    INPUT BIAS CURRENT
*    INPUT AND OUTPUT CLAMP DIODES
*    TEMP RANGE -40 TO +85 DEG C
*****************************************************************************
* BEGIN MODEL INA327
* PINOUT R1_1 IN- IN+ V- EN R2 VO V+ R1_2
* PINOUT 1    2   3   4  6  7  8  9  10
.SUBCKT INA327 3 2 9 4 8 6 1 10 7
*****************************************************************************
.MODEL D D
.MODEL DIN D
.MODEL DVN D KF=1.1E-19 IS=1E-16
.MODEL J NJF
.MODEL JX NJF IS=1E-16
.MODEL NIN NMOS KP=200U VTO=0.7
.MODEL NIQ NMOS VTO=0.5 KP=20E-3 IS=1E-18
.MODEL NMIR NMOS KP=200U VTO=0.7
.MODEL NOUT NMOS KP=2U VTO=0.7
.MODEL NOUTO NMOS KP=200U VTO=0.7
.MODEL PIN PMOS KP=200U VTO=-0.7
.MODEL PMIR PMOS KP=200U VTO=-0.7
.MODEL POUT PMOS KP=2U VTO=-0.7
.MODEL POUTO PMOS KP=200U VTO=-0.7
.MODEL PSD PMOS KP=200U VTO=-5 IS=1E-18
.MODEL PSH1 NMOS VTO=1.7 KP=200U
.MODEL PSH2 NMOS VTO=0.7 KP=20E-3 IS=1E-18
.MODEL Q NPN
.MODEL QMN NPN IS=1E-16
.MODEL QMP PNP IS=1E-16
.MODEL QP PNP
C13 38 62 16E-12
C14 55 57 20E-12
C15 2 0 7E-12
C16 47 0 4E-12
C17 42 0 1E-12
C22 2 47 0.25E-12
C24 61 49 5E-12
C34 88 111 16E-12
C35 104 106 20E-12
C36 3 0 7E-12
C37 96 0 4E-12
C38 16 0 1E-12
C39 3 96 0.25E-12
C40 110 98 5E-12
C43 149 220 2E-9
C44 150 221 2E-9
C45 151 155 2E-12
C46 136 173 16E-12
C47 166 168 22E-12
C48 147 0 4E-12
C49 145 0 4E-12
C50 140 0 1E-12
C51 147 145 0.25E-12
C52 172 160 6E-12
C55 190 192 2E-9
C56 6 4 5E-12
C57 2 3 2E-12
C58 8 0 0.1E-12
D10 45 0 DVN
D11 46 0 DVN
D12 37 40 D
D13 28 37 D
D14 51 26 D
D15 63 53 D
D18 71 68 D
D19 69 70 D
D21 16 25 D
D22 24 16 D
D23 92 0 DIN
D24 93 0 DIN
D25 94 0 DVN
D26 95 0 DVN
D27 87 90 D
D28 78 87 D
D29 100 76 D
D30 112 102 D
D31 120 117 D
D32 118 119 D
D34 140 9 D
D35 4 140 D
D36 141 0 DIN
D37 142 0 DIN
D38 143 0 DVN
D39 144 0 DVN
D40 135 138 D
D41 126 135 D
D42 162 124 D
D43 174 164 D
D44 183 180 D
D45 181 182 D
D46 185 0 D
D47 196 0 D
D48 201 0 D
D49 202 0 D
D6 42 18 D
D7 17 42 D
D8 43 0 DIN
D9 44 0 DIN
E100 138 0 9 0 1
E101 145 146 143 144 3
E102 149 0 138 0 1
E103 150 0 126 0 1
E104 151 0 152 0 1
E105 156 7 155 0 1
E106 159 156 154 0 1.5
E107 147 159 153 0 1.5
E108 160 126 138 126 0.5
E109 158 0 147 0 1
E110 157 0 146 0 1
E111 179 160 168 166 1
E112 138 170 138 183 1
E113 171 126 182 126 1
E114 9 132 9 133 1.3
E115 130 4 134 4 1.3
E116 173 0 140 0 1
E118 187 135 73 0 10
E119 190 0 191 0 1
E120 193 0 192 0 8E-6
E121 195 0 2 0 1
E122 194 0 3 0 1
E124 138 198 197 0 1.4
E125 199 126 200 0 1.4
E126 9 12 203 0 -0.597
E127 13 4 203 0 -0.405
E128 9 20 203 0 -0.597
E129 21 4 203 0 -0.405
E130 209 4 73 0 1
E131 210 0 73 0 -1
E132 205 0 204 4 1
E59 28 0 17 0 1
E60 40 0 18 0 1
E61 47 48 45 46 0.45
E68 49 28 40 28 0.5
E71 67 49 57 55 1
E72 40 59 40 71 1
E73 60 28 70 28 1
E74 18 34 18 35 100
E75 32 17 36 17 100
E76 62 0 42 0 1
E78 72 37 73 0 10
E79 78 0 24 0 1
E80 90 0 25 0 1
E81 96 97 94 95 0.45
E88 98 78 90 78 0.5
E91 116 98 106 104 1
E92 90 108 90 120 1
E93 109 78 119 78 1
E94 25 84 25 85 100
E95 82 24 86 24 100
E96 111 0 16 0 1
E98 121 87 73 0 10
E99 126 0 4 0 1
G10 49 70 58 28 1E-3
G11 71 49 40 54 1E-3
G13 54 58 73 0 8E-6
G14 65 28 73 0 45E-6
G15 3 97 92 93 9E-5
G16 87 98 110 98 0.2E-3
G17 117 98 87 98 -1E-3
G18 98 118 87 98 1E-3
G19 98 119 107 78 1E-3
G20 120 98 90 103 1E-3
G22 103 107 73 0 8E-6
G23 114 78 73 0 45E-6
G24 147 146 141 142 9E-5
G25 135 160 172 160 0.2E-3
G26 180 160 135 160 -1E-3
G27 160 181 135 160 1E-3
G28 160 182 169 126 1E-3
G29 183 160 138 165 1E-3
G3 2 48 43 44 9E-5
G30 9 4 184 0 -2.93E-3
G31 165 169 73 0 80E-6
G32 176 126 73 0 45E-6
G33 7 0 193 0 1
G34 9 4 73 0 1.26E-3
G35 18 17 73 0 13E-6
G36 25 24 73 0 13E-6
G4 37 49 61 49 0.2E-3
G8 68 49 37 49 -1E-3
G9 49 69 37 49 1E-3
I10 0 44 0.1E-3
I11 0 45 0.2E-6
I12 0 46 0.2E-6
I21 0 92 0.1E-3
I22 0 93 0.1E-3
I23 0 94 0.2E-6
I24 0 95 0.2E-6
I26 0 141 0.1E-3
I27 0 142 0.1E-3
I28 0 143 0.2E-6
I29 0 144 0.2E-6
I30 0 185 1E-3
I31 0 16 0 SIN 0 0.095U 180E3
I32 0 7 0 SIN 0 0.095U 360E3
I33 0 196 1M
I34 0 201 1E-3
I35 0 202 1E-3
I36 206 9 15N
I37 0 2 200E-12
I38 0 3 200E-12
I9 0 43 0.1E-3
J10 177 147 177 J
J11 138 145 138 J
J12 145 178 145 J
J13 147 178 147 J
J2 40 2 40 JX
J3 40 47 40 JX
J4 47 66 47 JX
J5 2 66 2 JX
J6 90 3 90 JX
J7 90 96 90 JX
J8 96 115 96 JX
J9 3 115 3 JX
M50 17 17 14 14 NMIR L=3U W=200U
M51 15 17 14 14 NMIR L=3U W=200U
M52 18 18 11 11 PMIR L=3U W=200U
M53 15 18 11 11 PMIR L=3U W=200U
M54 24 24 22 22 NMIR L=3U W=200U
M55 23 24 22 22 NMIR L=3U W=200U
M56 25 25 19 19 PMIR L=3U W=200U
M57 23 25 19 19 PMIR L=3U W=200U
M58 50 51 36 36 NOUT L=3U W=200U
M59 52 53 35 35 POUT L=3U W=200U
M60 54 54 39 39 POUT L=3U W=200U
M61 55 56 29 29 PIN L=3U W=60U
M62 57 47 31 31 PIN L=3U W=60U
M63 58 58 41 41 NOUT L=3U W=200U
M64 64 65 40 40 PIN L=6U W=500U
M65 65 65 40 40 PIN L=6U W=500U
M66 49 74 37 75 PSD L=3U W=30U
M67 99 100 86 86 NOUT L=3U W=200U
M68 101 102 85 85 POUT L=3U W=200U
M69 103 103 89 89 POUT L=3U W=200U
M70 104 105 79 79 PIN L=3U W=60U
M71 106 96 81 81 PIN L=3U W=60U
M72 107 107 91 91 NOUT L=3U W=200U
M73 113 114 90 90 PIN L=6U W=500U
M74 114 114 90 90 PIN L=6U W=500U
M75 98 122 87 123 PSD L=3U W=30U
M76 161 162 134 134 NOUTO L=3U W=200U
M77 163 164 133 133 POUTO L=3U W=200U
M78 165 165 137 137 POUTO L=3U W=200U
M79 166 167 127 127 PIN L=3U W=60U
M80 168 145 129 129 PIN L=3U W=60U
M81 169 169 139 139 NOUTO L=3U W=200U
M82 175 176 138 138 PIN L=6U W=500U
M83 176 176 138 138 PIN L=6U W=500U
M84 160 188 135 189 PSD L=3U W=30U
M85 204 6 4 4 PSH1 L=3U W=20U
M86 73 205 0 0 PSH2 L=3U W=2000U
M87 184 208 0 0 NIQ L=3U W=2000U
M88 148 209 4 4 NIQ L=3U W=2000U
Q21 26 27 28 Q
Q22 63 33 40 QP
Q23 76 77 78 Q
Q24 112 83 90 QP
Q25 124 125 126 Q
Q26 174 131 138 QP
Q27 6 206 9 QP
R192 29 30 2
R193 31 30 2
R194 27 32 100
R195 33 34 100
R196 35 18 130
R197 17 36 130
R199 37 38 5E3
R200 39 40 130
R201 28 41 130
R212 59 53 100
R213 60 51 100
R214 49 37 500E6
R215 28 55 2.05E3
R216 28 57 2.05E3
R217 42 52 50
R218 50 42 50
R219 67 61 10E3
R221 48 42 1
R222 68 71 100E6
R223 70 69 100E6
R224 71 40 1E3
R225 28 70 1E3
R226 69 49 1E6
R227 70 49 1E6
R228 49 71 1E6
R229 49 68 1E6
R234 48 47 1E9
R235 49 61 1E9
R236 59 40 1E9
R237 28 60 1E9
R239 75 0 1E12
R240 79 80 2
R241 81 80 2
R242 77 82 100
R243 83 84 100
R244 85 25 130
R245 24 86 130
R247 87 88 5E3
R248 89 90 130
R249 78 91 130
R260 108 102 100
R261 109 100 100
R262 98 87 500E6
R263 78 104 2.05E3
R264 78 106 2.05E3
R265 16 101 50
R266 99 16 50
R267 116 110 10E3
R269 97 16 1
R270 117 120 100E6
R271 119 118 100E6
R272 120 90 1E3
R273 78 119 1E3
R274 118 98 1E6
R275 119 98 1E6
R276 98 120 1E6
R277 98 117 1E6
R282 97 96 1E9
R283 98 110 1E9
R284 108 90 1E9
R285 78 109 1E9
R287 123 0 1E12
R288 127 128 2
R289 129 128 2
R290 125 130 100
R291 131 132 100
R292 133 9 30
R293 4 134 30
R295 135 136 5E3
R296 137 138 30
R297 126 139 30
R298 148 9 5.11E3
R300 149 153 1E6
R301 150 154 1E6
R302 151 155 1E6
R303 0 153 100
R304 0 154 100
R305 0 155 100
R306 157 152 1E3
R307 152 158 1E3
R308 170 164 100
R309 171 162 100
R310 160 135 500E6
R311 126 166 2.05E3
R312 126 168 2.05E3
R313 140 163 50
R314 161 140 50
R315 179 172 10E3
R317 146 140 1
R318 180 183 100E6
R319 182 181 100E6
R320 183 138 1E3
R321 126 182 1E3
R322 181 160 1E6
R323 182 160 1E6
R324 160 183 1E6
R325 160 180 1E6
R326 0 186 1E6
R327 159 147 1E9
R328 156 159 1E9
R329 7 156 1E9
R330 146 145 1E9
R331 160 172 1E9
R332 170 138 1E9
R333 126 171 1E9
R334 152 0 1E9
R335 189 0 1E12
R338 190 192 1E6
R339 0 192 100
R340 194 191 1E3
R341 191 195 1E3
R342 0 193 1E9
R343 191 0 1E9
R345 0 197 1E6
R346 0 200 1E6
R347 126 199 1E9
R348 198 138 1E9
R349 0 203 1E6
R350 4 13 1E9
R351 12 9 1E9
R352 20 9 1E9
R353 4 21 1E9
R354 204 9 2.5E6
R355 73 207 1E6
R356 186 184 1E6
R357 0 209 1E9
R358 0 210 1E6
R359 0 208 1E6
R360 148 4 1E7
R361 0 205 1E6
R362 153 220 1E5
R363 154 221 1E5
V37 11 12 0.873
V38 13 14 0.798
V41 15 16 0
V43 19 20 0.873
V44 21 22 0.798
V45 23 7 0
V53 2 56 0
V54 64 30 -1
V57 66 28 0.3
V58 74 72 -10
V62 3 105 0
V63 113 80 -1
V66 115 78 0.3
V67 122 121 -10
V71 147 167 0
V72 175 128 -1
V74 185 186 0.655
V76 188 187 -10
V78 140 8 0 SIN 0 1.048M 90E3
V79 1 42 0 SIN 0 1.048M 90E3
V80 16 10 0 SIN 0 1.048M 90E3
V82 196 197 0.655
V83 201 200 0.655
V84 198 177 0.357
V85 178 199 0.448
V86 202 203 0.655
V88 207 0 1
V89 208 210 1
.ENDS INA327
*
